US08865752B2
2-Bromo-6-(2-ethyl-1-(1H-imidazol-1-yl)butyl)benzo[d]thiazole;
6-(2-Ethyl-1-(1H-imidazol-1-yl)butyl)benzo[d]thiazol-2-amine; 1-(2-Bromobenzo[d]thiazol-6-yl)-1-(1H-imidazol-1-yl)-N,N-dimethylbutan-2-amine; Methyl 6-(2-(dimethylamino)-1-(1H-imidazol-1-yl)butyl)benzo[d]thiazole-2-carboxylate; 6-(2-(Dimethylamino)-1-(1H-imidazol-1-yl)butyl)benzo[d]thiazol-2-amine: 1-(6-(2-(Dimethylamino)-1-(1H-imidazol-1-yl)butyl)benzo[d]thiazol-2-yl)urea; N-(6-(2-(ethyl(methyl)amino)-1-(1H-imidazol-1-yl)butyl)benzo[d]thiazol-2-yl)acetamide; Methyl 6-(2-(dimethylamino)-1-(1H-imidazol-1-yl)butyl)benzo[d]thiazole-2-carbimidate; 6-(2-(Dimethylamino)-1-(1H-imidazol-1-yl)butyl)benzo[d]thiazole-2-carboxamide; 1-(2-Bromobenzo[d]thiazol-6-yl)-N-ethyl-1-(1H-imidazol-1-yl)-N-methylbutan-2-amine; 1-(2-Chlorobenzo[d]thiazol-6-yl)-N-ethyl-1-(1H-imidazol-1-yl)-N-methylbutan-2-amine; 1-(Benzo[d]thiazol-6-yl)-1-(1H-imidazol-1-yl)-N,N-dimethylbutan-2-amine; and 6-(2-(ethyl(methyl)amino)-1-(1H-imidazol-1-yl)butyl)benzo[d]thiazol-2-amine.

reactant | 6-(2-Ethyl-1-(1H-imidazol-1-yl)butyl)benzo[d]thiazol-2-amine | C(C)C(C(N1C=NC=C1)C1=CC2=C(N=C(S2)N)C=C1)CC | C16H20N4S
reactant | 1-(2-Bromobenzo[d]thiazol-6-yl)-1-(1H-imidazol-1-yl)-N,N-dimethylbutan-2-amine | BrC=1SC2=C(N1)C=CC(=C2)C(C(CC)N(C)C)N2C=NC=C2 | C16H19BrN4S
reactant | Methyl 6-(2-(dimethylamino)-1-(1H-imidazol-1-yl)butyl)benzo[d]thiazole-2-carboxylate | CN(C(C(N1C=NC=C1)C1=CC2=C(N=C(S2)C(=O)OC)C=C1)CC)C | C18H22N4O2S
reactant | 6-(2-(Dimethylamino)-1-(1H-imidazol-1-yl)butyl)benzo[d]thiazol-2-amine | CN(C(C(N1C=NC=C1)C1=CC2=C(N=C(S2)N)C=C1)CC)C | C16H21N5S
reactant | 1-(6-(2-(Dimethylamino)-1-(1H-imidazol-1-yl)butyl)benzo[d]thiazol-2-yl)urea | CN(C(C(N1C=NC=C1)C1=CC2=C(N=C(S2)NC(=O)N)C=C1)CC)C | C17H22N6OS
reactant | N-(6-(2-(ethyl(methyl)amino)-1-(1H-imidazol-1-yl)butyl)benzo[d]thiazol-2-yl)acetamide | C(C)N(C(C(N1C=NC=C1)C1=CC2=C(N=C(S2)NC(C)=O)C=C1)CC)C | C19H25N5OS
reactant | Methyl 6-(2-(dimethylamino)-1-(1H-imidazol-1-yl)butyl)benzo[d]thiazole-2-carbimidate | CN(C(C(N1C=NC=C1)C1=CC2=C(N=C(S2)C(OC)=N)C=C1)CC)C | C18H23N5OS
reactant | 6-(2-(Dimethylamino)-1-(1H-imidazol-1-yl)butyl)benzo[d]thiazole-2-carboxamide | CN(C(C(N1C=NC=C1)C1=CC2=C(N=C(S2)C(=O)N)C=C1)CC)C | C17H21N5OS
reactant | 1-(2-Bromobenzo[d]thiazol-6-yl)-N-ethyl-1-(1H-imidazol-1-yl)-N-methylbutan-2-amine | BrC=1SC2=C(N1)C=CC(=C2)C(C(CC)N(C)CC)N2C=NC=C2 | C17H21BrN4S
reactant | 1-(2-Chlorobenzo[d]thiazol-6-yl)-N-ethyl-1-(1H-imidazol-1-yl)-N-methylbutan-2-amine | ClC=1SC2=C(N1)C=CC(=C2)C(C(CC)N(C)CC)N2C=NC=C2 | C17H21ClN4S
reactant | 1-(Benzo[d]thiazol-6-yl)-1-(1H-imidazol-1-yl)-N,N-dimethylbutan-2-amine | S1C=NC2=C1C=C(C=C2)C(C(CC)N(C)C)N2C=NC=C2 | C16H20N4S
reactant | 6-(2-(ethyl(methyl)amino)-1-(1H-imidazol-1-yl)butyl)benzo[d]thiazol-2-amine | C(C)N(C(C(N1C=NC=C1)C1=CC2=C(N=C(S2)N)C=C1)CC)C | C17H23N5S
product | 2-Bromo-6-(2-ethyl-1-(1H-imidazol-1-yl)butyl)benzo[d]thiazole | BrC=1SC2=C(N1)C=CC(=C2)C(C(CC)CC)N2C=NC=C2 | C16H18BrN3S
